US05552540
To 13.12 g (100 mmol) of 6-aminohexanoic acid in 400 mL of dioxan at 0° C. was added 100 mL of 1M NaOH, and 24.01 g (110 mmol) of di-tert-butyl-pyrocarbonate. The resulting suspension was stirred at room temperature for 3 days, after which time it gave a negative ninhydrin test. The volume was then reduced under pressure to 100 mL, the mixture cooled to 0° C., covered with ethyl acetate, and acidified with 1M KHSO4 to pH 2-3. The product was extracted with ethyl acetate (3×150 mL), the organic phase washed with H2O (2×300 mL), dried (Na2SO4) and evaporated to a thick syrup. This was recrystallized from ethyl acetate/hexane, to give 20.40 g (88%), mp 39°-41° C. (lit14 mp 39.5° C.).

reactant | 6-aminohexanoic acid | 100 mmol, 13.12 g | NCCCCCC(=O)O | C6H13NO2
reactant | NaOH | 1M, 100 mL | [OH-].[Na+]
reactant | di-tert-butyl-pyrocarbonate | 110 mmol, 24.01 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | dioxan | 400 mL | O1CCOCC1 | C4H8O2
product | ninhydrin | C1=CC=C2C(=C1)C(=O)C(C2=O)(O)O | C9H6O4
